US09447091B2
a) Ethyl 2-(3,5-dimethylpiperazin-1-yl)acetate
To a solution of 2,6-dimethylpiperazine (500 mg, 4.378 mmol, 1.0 eq) in THF were added K2CO3 (1.2 g, 8.75 mmol, 2.2 eq.) and ethyl 2-bromoacetate (731 mg, 4.378 mmol, 1 eq). The mixture was stirred at RT for 4 h and then quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to afford the product in 34% yield (0.3 g). LC-MS (ESI): Calculated mass: 200.0; Observed mass: 201.0 [M+H]+ (rt: 0.102 min).

reactant | 2,6-dimethylpiperazine | 4.378 mmol, 500 mg, 1.0 eq | CC1NC(CNC1)C | C6H14N2
reactant | K2CO3 | 8.75 mmol, 1.2 g, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 4.378 mmol, 731 mg, 1 eq | BrCC(=O)OCC | C4H7BrO2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2-(3,5-dimethylpiperazin-1-yl)acetate | 34% yield | CC1CN(CC(N1)C)CC(=O)OCC | C10H20N2O2
